US04548940
2-Bromopyridine (20 g), 1,3-diaminopropane (47 g) and pyridine (13 ml) were heated together under reflux for 2.5 hr. The mixture was stripped to remove the excess of diaminopropane and the residue taken up in water. The pH was adjusted to 14 and extracted with chloroform. The extracts were dried (K2CO3), stripped and the residue distilled at reduced pressure to give 2-(3-aminopropylamino)pyridine (13.3 g; 70%) b.p.0.02 90°-91° C.

reactant | 2-Bromopyridine | 20 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1,3-diaminopropane | 47 g | NCCCN | C3H10N2
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-aminopropylamino)pyridine | 13.3 g, 70% | NCCCNC1=NC=CC=C1 | C8H13N3
